US08013203B2
To a stirred solution of 2-iodo-5-methoxy-1-methoxymethoxybenzene (5.24 g, 17.8 mmol) in MeCN (55 mL) was added silica gel (1.32 g), 2,6-di-tert-butyl-4-hydroxytoluene (60 mg), and then N-bromosuccinimide (3.17 g, 17.8 mmol). The mixture was stirred at 23° C. for 1 hour and then filtered. The filtrate was concentrated in vacuo and the residue was dissolved in CH2Cl2 (100 mL). To this solution was added water (100 mL) and the resulting mixture was vigorously stirred for 5 min. The layers were then separated and the aq. phase was extracted with CH2Cl2 (2×100 mL). The combined organics were dried over MgSO4 and concentrated in vacuo. The residue was purified by flash-column chromatography (SiO2, petroleum ether:Et2O 8:1) to provide 2-iodo-4-bromo-5-methoxy-1-methoxymethoxybenzene as a yellow oil (5.05 g, 76%).

reactant | 2-iodo-5-methoxy-1-methoxymethoxybenzene | 17.8 mmol, 5.24 g | IC1=C(C=C(C=C1)OC)OCOC | C9H11IO3
reactant | N-bromosuccinimide | 17.8 mmol, 3.17 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | MeCN | 55 mL | CC#N | C2H3N
catalyst | 2,6-di-tert-butyl-4-hydroxytoluene | 60 mg | C(C)(C)(C)C1=C(C(=CC(=C1)O)C(C)(C)C)C | C15H24O
product | 2-iodo-4-bromo-5-methoxy-1-methoxymethoxybenzene | 5.05 g, 76% | IC1=C(C=C(C(=C1)Br)OC)OCOC | C9H10BrIO3
